US04772600
2-(2-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester hydrochloride [1:1]
Solid N-[3-[(2-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester, 13.75 g (0.042 mole) was heated in glass in a Wood's metal bath at 210°-20° C. for 2 minutes, then at 215°-20° C. for 2 minutes. The residue was dissolved in methylene chloride, treated with activated charcoal, and filtered through a Celite pad. The filtrate (dark orange) was treated with Florisil® to give a dark filtrate, which was evaporated to give an oil. The oil was dissolved in isopropyl alcohol, filtered and the filtrate acidified with methanolic hydrogen chloride and diluted with isopropyl ether. The crystalline crop was collected, washed with isopropyl ether-isopropyl alcohol (minimum), and dried under high vacuum at room temperature overnight to give 1.6 g (11%) of title compound, mp 177°-80° C.

reactant | N-[3-[(2-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=C(C=CC=C1)OC)=O)=O | C17H19N3O4
reactant | charcoal | C | CH4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(2-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester hydrochloride | 1.6 g, 11% | Cl.C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=C(C=CC=C2)OC)=O | InChI=1S/C17H17N3O3.ClH/c1-3-23-15(21)11-20-16(12-7-4-5-9-14(12)22-2)19-13-8-6-10-18-17(13)20;/h4-10H,3,11H2,1-2H3;1H
